US05198208
(b) 5,9-Bis(benzyloxymethyl)-1-thia-4,7,10-triazacyclododecane
5,9-Bis(benzyloxymethyl)-1-thia-4,7,10-triazacyclododecane-3,11-dione (0.352 g, 0.769 mmol) was dissolved in dry THF (10 ml) and cooled to 0° C. A 1 M solution of borohydride -THF complex in THF (5 ml) was added under nitrogen and the mixture was stirred for 1 hour at ambient temperature and refluxed for 0.5 hours. To the cooled solution was added 2 M hydrochloric acid (3 ml) and the resulting mixture was evaporated to dryness. Water (1 ml) and 25% ammonia solution (1 ml) was added and the mixture was extracted 3 times with 4 ml chloroform. The combined extracts were concentrated in vacuo and gave a yellow oil which showed absence of carbonyl bands in IR. Yield: 0.29 g (88%), FAB MS: 430(M+1).

reactant | 5,9-Bis(benzyloxymethyl)-1-thia-4,7,10-triazacyclododecane-3,11-dione | 0.769 mmol, 0.352 g | C(C1=CC=CC=C1)OCC1NC(CSCC(NC(CNC1)COCC1=CC=CC=C1)=O)=O | C24H31N3O4S
reactant | hydrochloric acid | 2 M, 3 ml | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 5,9-Bis(benzyloxymethyl)-1-thia-4,7,10-triazacyclododecane | C(C1=CC=CC=C1)OCC1NCCSCCNC(CNC1)COCC1=CC=CC=C1 | C24H35N3O2S
